US07482375B2
4-{[1-(2-Hydroxyethyl)-3,5-dimethyl-1H-pyrazol-4-yl]oxy}benzonitrile
A mixture of commercially available 3-chloro-2,4-pentanedione (1.2 ml, 10 mmol), 4-cyanophenol (1.19 g, 10 mmol), caesium carbonate (3.25 g, 10 mmol) and acetone (50 ml) was heated at 60° C. for 4 hours. After cooling, the reaction mixture was concentrated under reduced pressure. The resulting oil was diluted with dichloromethane (25 ml) and washed with 1M hydrochloric acid (30 ml). The aqueous layer, at pH 1, was extracted with dichloromethane (20 ml). The combined organic extracts were washed with brine, dried over magnesium sulphate, filtered and concentrated under reduced pressure to provide 4-(1-acetyl-2-oxopropoxy)benzonitrile (2.06 g, 9.4 mmol) which was used crude in the next step. 2-Hydroxyethyl hydrazine (169 μL, 2.5 mmol) was added to a stirred solution of a portion of the crude 4-(1-acetyl-2-oxopropoxy)benzonitrile (500 mg, 2.3 mmol) in acetic acid (5 ml) at room temperature under nitrogen, and the mixture was stirred at room temperature for 5 hours. Water (20 ml) was then added, and a solid triturated out and filtered off. This was recrystallised from ethyl acetate to provide the title compound (154 mg, 6%).

reactant | 2-Hydroxyethyl hydrazine | 2.5 mmol, 169 μL | OCCNN | C2H8N2O
reactant | 4-(1-acetyl-2-oxopropoxy)benzonitrile | 2.3 mmol, 500 mg | C(C)(=O)C(C(C)=O)OC1=CC=C(C#N)C=C1 | C12H11NO3
reactant | Water | 20 ml | O | H2O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-{[1-(2-Hydroxyethyl)-3,5-dimethyl-1H-pyrazol-4-yl]oxy}benzonitrile | 154 mg, 6% | OCCN1N=C(C(=C1C)OC1=CC=C(C#N)C=C1)C | C14H15N3O2
